US07700633B2
In a microwave vial is added 5-(3-benzyloxy-7-bromonaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (0.100 g, 0.224 mmol), cyclopentene (0.04 mL, 0.453 mmol), palladium acetate (0.010 g, 0.0445 mmol), triethylamine (0.063 mL, 0.448 mmol) and acetonitrile (2 mL). The vial is capped and placed in the microwave for 15 min at 110° C. The reaction mixture is filtered over Celite and washed with acetonitrile. The filtrate is concentrated and the residue is purified via Biotage Sp1, eluting with 15-60% EtOH/H2O to afford 5-(3-benzyloxy-7-cyclopent-1-enyl-naphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (0.0127 g): (M−H)−=433.

reactant | 5-(3-benzyloxy-7-bromonaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.224 mmol, 0.100 g | C(C1=CC=CC=C1)OC=1C(=CC2=CC(=CC=C2C1)Br)N1CC(NS1(=O)=O)=O | C19H15BrN2O4S
reactant | cyclopentene | 0.453 mmol, 0.04 mL | C1=CCCC1 | C5H8
reactant | triethylamine | 0.448 mmol, 0.063 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.0445 mmol, 0.010 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 5-(3-benzyloxy-7-cyclopent-1-enyl-naphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.0127 g | C(C1=CC=CC=C1)OC=1C(=CC2=CC(=CC=C2C1)C1=CCCC1)N1CC(NS1(=O)=O)=O | C24H22N2O4S
